US06933321B2
3-Chloro-2′,4′-difluorobiphenyl-4-carbonitrile (EM-4283):
In a round bottom flask, 4-bromo-2-chlorobenzonitrile (3 g, 13.85 mmol), 2,4-difluorophenylboronic acid (2.63 g, 16.63 mmol) and K3PO4 (8.83 g, 41.56 mmol) were added in dry DMF (50 mL). The mixture was purged under argon for 30 min and Pd(PPh3)4 (1.6 g, 1.38 mmol) was added. The mixture was heated for 48 hr at 80 C. Water (100 mL) was added and the aq layer was extracted with CH2Cl2 (3×50 mL). The organic layer was washed with brine (3×50 mL), dried, evaporated and purified on silica gel (EtOAc/hexanes:1/19) to give the product (1 g, 29%), 1H.NMR (acetone-d6) δ: 7.2-7.28 (m, 2H), 7.72-7.79 (m, 2H), 7.91 (t, 1H, J=1.4 Hz), 8.02 (d, 1H, J=8.1 Hz).

reactant | 4-bromo-2-chlorobenzonitrile | 13.85 mmol, 3 g | BrC1=CC(=C(C#N)C=C1)Cl | C7H3BrClN
reactant | 2,4-difluorophenylboronic acid | 16.63 mmol, 2.63 g | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
reactant | K3PO4 | 41.56 mmol, 8.83 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | Water | 100 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 1.38 mmol, 1.6 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Chloro-2′,4′-difluorobiphenyl-4-carbonitrile | 1 g, 29% | ClC=1C=C(C=CC1C#N)C1=C(C=C(C=C1)F)F | C13H6ClF2N
